US07064215B2
Synthesis of 6-(5-Nitropyridin-2-yloxy)-1H-indole
NaH (1.1 equivalents) is added to a solution of 6-hydroxyindole (1.0 equivalent) in NMP. The resulting mixture is stirred for 2 hours at room temperature. 2-Chloro-5-nitropyridine (1.1 equivalents) is added and the solution is heated to 100° C. for 2 hours. The solution is cooled and poured into water. The aqueous layer is extracted with EtOAc three times. The organic layers are combined and concentrated to yield the titled compound.

reactant | NaH | 1.1 equivalents | [H-].[Na+]
reactant | 6-hydroxyindole | 1.0 equivalent | OC1=CC=C2C=CNC2=C1 | C8H7NO
reactant | 2-Chloro-5-nitropyridine | 1.1 equivalents | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | water | O | H2O
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 6-(5-Nitropyridin-2-yloxy)-1H-indole | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=C2C=CNC2=C1 | C13H9N3O3
